US06930100B2
Step A. (S)-Hydroxy-acetic acid 3-(5-chloro-2-methoxy-phenyl)-3-fluoro-2-oxo-6-trifluoromethyl-2,3-dihydro-indol-1-ylmethyl ester ((S)-XI)
To a 10 mL flask containing (S)-3-(5-chloro-2-methoxy-phenyl)-1-chloromethyl-3-fluoro-6-trifluoromethyl-1,3-dihydro-indol-2-one ((S)-V) (0.200 g, 0.489 mmol) was added 3 mL anhydrous acetonitrile, glycolic acid (0.045 g, 0.588 mmol) and cesium carbonate (0.079 g, 0.245 mmol). The reaction was stirred for 36 hours at room temperature, then the organic layer was diluted with 5 mL diethyl ether and the organic solution was decanted away from the solid cesium chloride. The solvent was evaporated in vacuo and the resulting white foam was purified by flash chromatography (silica gel 4:1 hexanes:acetone) producing the title compound (0.126 g, 58%) as a white powder. 1H NMR (CDCl3 400 MHz): δ=7.79 (s, 1H), 7.38-7.33 (m, 3H), 7.26 (d, 1H, J=7 Hz), 6.75 (d, 1H, J=7 Hz), 5.99 (d, 1H, J=12 Hz), 5.91 (d, 1H, J=12 Hz), 4.26 (s, 2H), 3.49 (s, 3H).

reactant | (S)-3-(5-chloro-2-methoxy-phenyl)-1-chloromethyl-3-fluoro-6-trifluoromethyl-1,3-dihydro-indol-2-one | 0.489 mmol, 0.200 g | ClC=1C=CC(=C(C1)[C@@]1(C(N(C2=CC(=CC=C12)C(F)(F)F)CCl)=O)F)OC | C17H11Cl2F4NO2
reactant | acetonitrile | 3 mL | C(C)#N | C2H3N
reactant | glycolic acid | 0.588 mmol, 0.045 g | C(CO)(=O)O | C2H4O3
reactant | cesium carbonate | 0.245 mmol, 0.079 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
product | (S)-Hydroxy-acetic acid 3-(5-chloro-2-methoxy-phenyl)-3-fluoro-2-oxo-6-trifluoromethyl-2,3-dihydro-indol-1-ylmethyl ester | 0.126 g, 58% | ClC=1C=CC(=C(C1)[C@@]1(C(N(C2=CC(=CC=C12)C(F)(F)F)COC(CO)=O)=O)F)OC | C19H14ClF4NO5
